US07919628B2
To a solution of 4.70 g 1-hydroxy-2-naphthalene carboxylic acid in 40 ml abs. DMF under inert atmosphere 3.72 g 1-hydroxybenzotriazole and 8.89 g N,N′-diisopropyl carbodiimide and 7 ml of N,N-diisopropylethylamine were added at 0° C. After 30 minutes at 0° C. 4.22 g of methyl 2-aminoisobutyrate hydrochloride, followed by 5 ml of N,N-diisopropylethylamine were added. After 16 h at room temperature the reaction mixture was concentrated, the residue was taken up in ethyl acetate and washed with 2 M HCl and brine. The organic layer was dried over magnesium sulphate, and concentrated and the resulting residue was crystallized from toluene to yield 4.18 g of 2-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester.

reactant | 1-hydroxy-2-naphthalene carboxylic acid | 4.70 g | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N′-diisopropyl carbodiimide | 8.89 g | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | N,N-diisopropylethylamine | 7 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl 2-aminoisobutyrate hydrochloride | 4.22 g | Cl.NC(C(=O)OC)(C)C
reactant | N,N-diisopropylethylamine | 5 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 4.18 g | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)=O | C16H17NO4
